US07304081B2
(1R)-1′-({1-[4-(2-Pyridin-2-ylethoxy)phenyl]cyclopropyl}-carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
(1R)-1′-{[1-(4-Hydroxyphenyl)-cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (15 mg, 0.043 mmol), diisopropyl azodicarboxylate (20 ul, 0.10 mmol), and triphenylphosphine (24 ul, 0.10 mmol) were mixed in tetrahydrofuran (0.2 ml) at room temperature for 5 minutes. To the mixture, with stirring, was added 2-(2-pyridyl)ethanol (13 mg, 0.10 mmol). The resulting mixture then was stirred at room temperature overnight. Then the desired product was obtained from the mixture by prep-HPLC (6.4 mg, yield: 33%). LCMS: m/z 455.2 (M+H)+.

reactant | (1R)-1′-{[1-(4-Hydroxyphenyl)-cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.043 mmol, 15 mg | OC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C21H19NO4
reactant | diisopropyl azodicarboxylate | 0.10 mmol, 20 ul | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 0.10 mmol, 24 ul | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2-pyridyl)ethanol | 0.10 mmol, 13 mg | N1=C(C=CC=C1)CCO | C7H9NO
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
product | (1R)-1′-({1-[4-(2-Pyridin-2-ylethoxy)phenyl]cyclopropyl}-carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | yield: 33% | N1=C(C=CC=C1)CCOC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C28H26N2O4
